Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ Critical (AKA ___ is a ___ male who presents to 
___ on ___ with a possible mild TBI vs 
spontaneous SAH/IPH. 

The patient has a history of ___ disease and dementia, 
and lives in a nursing home, where he had sustained a witnessed 
fall at 7PM on ___, with headstrike, without LOC. In the 
morning of ___ he was found to be altered and lethargic, 
vomited twice, and had an unsteady gait, slurred speech and 
right sided weakness. He was brought to OSH where CT scan 
revealed an
infratentorial hemorrhage with effacement of ___ ventricle.

He is on Eliquis for Afib. He was given an Andexxa bolus, and 
started on Andexxa infusion, and subsequently medflighted to 
___ for neurosurgical assessment.
 
Past Medical History:
___ Disease
dementia
afib on Eliquis
agitation with visual hallucinations
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ON ADMISSION: 
O:  T: 97.8  BP: 142/80  HR: 102  RR:25  O2 Sat: 97% RA
GCS at the scene: __unknown___
GCS upon Neurosurgery Evaluation: 14  Time of evaluation: 1600
Airway: [ ]Intubated   [x]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [x]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam:

Gen: WD/WN, comfortable, NAD.
HEENT: Right side facial ecchymosis
Neck: supple
Extrem: warm and well perfused

Neuro:

Mental Status: Awake, alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date.

Language: Speech is hypophonic, mumbled, but fluent, following
simple commands. 

If Intubated:
  [ ]Cough  [ ]Gag  [ ]Over breathing the vent [x]Not intubated

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 2mm
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally with
bilateral vertical nystagmus
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Cannot follow for palatal elevation
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. Resting tremor. Strength full
power ___ throughout. Has difficulty supinating his arms, seems
to be instructional comprehension issue, however he maintains 
his
arms held up without a drift

Sensation: Withdraws to light touch

Severe discoordination bilaterally on finger to nose

=======================================

TIME OF DEATH DECLARATION EXAM
On exam, no heart and lung sounds were auscultated. No response
to physical or verbal stimuli. Pupils fixed and dilated. No
corneal reflex present. No peripheral pulses. 
Time of death: 11:20 AM
Date: ___
 
Pertinent Results:
LABS ON ADMISSION
___ 05:05PM BLOOD WBC-9.0 RBC-3.57* Hgb-11.9* Hct-37.0* 
MCV-104* MCH-33.3* MCHC-32.2 RDW-12.9 RDWSD-49.2* Plt ___
___ 05:05PM BLOOD Neuts-90.9* Lymphs-4.1* Monos-4.6* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-8.14* AbsLymp-0.37* 
AbsMono-0.41 AbsEos-0.00* AbsBaso-0.01
___ 05:05PM BLOOD ___ PTT-30.1 ___
___ 05:05PM BLOOD Glucose-143* UreaN-23* Creat-1.0 Na-136 
K-5.3 Cl-104 HCO3-18* AnGap-14
___ 05:05PM BLOOD ALT-20 AST-27 AlkPhos-77 TotBili-0.4
___ 05:05PM BLOOD Albumin-3.9 Calcium-8.4 Phos-3.1 Mg-1.8

IMAGING
___ cerebellar intraparenchymal hematoma and adjacent subarachnoid 
hemorrhage
have significantly increased since 1 day prior and now result in 
significant
brainstem compression and edema and impending tonsillar 
herniation.

___. Interval placement of the right frontal ventricular drainage 
catheter with
postoperative changes.  The ventricular drainage catheter enters 
the left
lateral ventricle and terminating at the lateral wall of the 
body of the left
lateral ventricle.  Degree of hydrocephalus is unchanged.
2. Grossly unchanged cerebellar intraparenchymal hematoma and 
multifocal
subarachnoid hemorrhage with associated mass effect.  No new 
intracranial
hemorrhage.
 
Brief Hospital Course:
Patient was transferred from OSH and received Andexxa for 
reversal of Eliquis. Patient was admitted to the Neurosurgery 
service for close monitoring to the NIMU. Anticoagulation was 
held; repeat NCHCT was stable. ACS completed tertiary survey 
which was negative for additional injuries. Neurosurgery service 
spoke with patient's wife who confirmed that the patient was 
DNR/DNI, per his active MOLST form. On ___, patient was made 
floor status. Medicine accepted for ___ transfer. Patient was 
found to have +UA and ceftriaxone was initiated for UTI while 
Ucx was pending. On ___ overnight patient had worsening mental 
exam and a repeat NCHCT was ordered which showed worsening 
hemorrhage. Patients wife was notified and ___ placement was 
offered. Wife reversed DNI/DNR for procedure and right frontal 
___ was placed. On ___ ___ discussion was had with wife and 
patients son. Family ultimately decided due to patients poor 
prognosis they wanted to move towards CMO. R ___ was removed and 
patients was made comfort measures only. 
On ___, MD was notified by RN that patient appeared to have 
passed away. Formal exam was performed, and patient was 
pronounced dead at 11:20am on ___.

 
Medications on Admission:
Eliquis 5mg BID (per wife was taking 2.5mg BID)
Digoxin 125mcg daily 
Diltiazem ER 360mg daily
Finasteride 5mg daily 
Furosemide 20mg ___ 
Rosuvastatin 10mg qhs 
Synthroid 75mcg daily 
Melatonin 3mg qhs 
Trazodone 50mg qhs 
acetaminophen 500mg TID 
Depakote ER 125mg 
Carbidopa/Levodopa ___ PO TID ___, 1400, 1800
Seroquel 25mg qhs 
 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
N/A

 
Discharge Condition:
N/A
 
Discharge Instructions:
N/A
 
Followup Instructions:
___